US07230098B2
To a solution of 3-[1-(2,6-Dichloro-3-fluoro-phenyl)-ethoxy]-5-iodo-pyridin-2-ylamine (7.1 g, 16.6 mmol) and prop-2-ynyl-carbamic acid tert-butyl ester (3.1 g, 20.0 mmol) in THF (60 mL) and Et3N (60 mL) was added Cul (63 mg, 0.3 mmol) and Pd(PPh3)4 (384 mg, 0.3 mmol). The mixture was stirred under nitrogen and monitored by TLC until the reaction was complete. The mixture was extracted with EtOAc and washed by water. The crude product was purified on a silica gel column eluting with 20–40% EtOAc in hexanes to provide (3-{6-Amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl)-prop-2-ynyl)-carbamic acid tert-butyl ester (2.2 g, 29% yield).

reactant | 3-[1-(2,6-Dichloro-3-fluoro-phenyl)-ethoxy]-5-iodo-pyridin-2-ylamine | 16.6 mmol, 7.1 g | ClC1=C(C(=CC=C1F)Cl)C(C)OC=1C(=NC=C(C1)I)N | C13H10Cl2FIN2O
reactant | prop-2-ynyl-carbamic acid tert-butyl ester | 20.0 mmol, 3.1 g | C(C)(C)(C)OC(NCC#C)=O | C8H13NO2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | Et3N | 60 mL | CCN(CC)CC | C6H15N
catalyst | Pd(PPh3)4 | 0.3 mmol, 384 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3-{6-Amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl)-prop-2-ynyl)-carbamic acid tert-butyl ester | 2.2 g, 29% yield | C(C)(C)(C)OC(NCC#CC=1C=NC(=C(C1)OC(C)C1=C(C(=CC=C1Cl)F)Cl)N)=O | C21H22Cl2FN3O3
